US07479502B2
tert-Butyl 2-amino-6-benzyloxycarbonylamino-hexanoate (1.0 g, 2.68 mmol) was dissolved in N,N-dimethylformamide (50 mL) and then triethylamine (5.35 mmol, 0.75 mL) followed by N-(tert-butoxycarbonyloxy)succinimide (0.72 g, 3.35 mmol) was added to the solution. The mixture was stirred overnight and then concentrated. The product was purified from the residue by silica gel chromatography (20% MeOH/chloroform) to give tert-butyl 6-benzyloxycarbonylamino-2-tert-butoxycarbonylamino-hexanoate. The tri-protected product was reduced on a Parr hydrogenator (50 psi) to remove the benzyloxycarbonyl protecting group. The solvents were removed to give tert-butyl 6-amino-2-tert-butoxycarbonylamino-hexanoate (0.65 g, 80%).

reactant | tert-Butyl 2-amino-6-benzyloxycarbonylamino-hexanoate | 2.68 mmol, 1.0 g | NC(C(=O)OC(C)(C)C)CCCCNC(=O)OCC1=CC=CC=C1 | C18H28N2O4
reactant | triethylamine | 5.35 mmol, 0.75 mL | C(C)N(CC)CC | C6H15N
reactant | N-(tert-butoxycarbonyloxy)succinimide | 3.35 mmol, 0.72 g | C(C)(C)(C)OC(=O)ON1C(CCC1=O)=O | C9H13NO5
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | tert-butyl 6-benzyloxycarbonylamino-2-tert-butoxycarbonylamino-hexanoate | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C23H36N2O6
